US06340759B1
(139-1) 5-Bromo-2-(3-methoxypropynyl)pyridine
2,5-Dibromopyridine (16.582 g) was dissolved in triethylamine (200 ml), followed by the addition of methyl propargyl ether (5.9 ml), copper iodide (267 mg) and bis(triphenylphosphine)palladium (II) chloride (46 mg). The resulting mixture was stirred in nitrogen atmosphere at room temperature for 1 hr. Subsequently, it was stirred at room temperature for further 3 hr. After the resulting insoluble matters were filtered off, the resulting solution was evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a brown solid (12.411 g, yield; 79%).

reactant | 2,5-Dibromopyridine | 16.582 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | methyl propargyl ether | 5.9 ml | C(C#C)OC | C4H6O
solvent | triethylamine | 200 ml | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 267 mg | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium (II) chloride | 46 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 5-Bromo-2-(3-methoxypropynyl)pyridine | 12.411 g, yield; 79% | BrC=1C=CC(=NC1)C#CCOC | C9H8BrNO
